US05157123
Preparation of Di-(tert-Butyloxycarbonyl)-L-Cysteine Hydrazide
Zinc dust (3 g) was added in portions over two hours to a suspension of 10.80 g (16.17 mmol) tetra(tert-butyloxycarbonyl)-L-cystine dihydrazide in 40 ml acetic acid containing 6 ml water. Gradually the suspension dissolved and after two hours the solution was concentrated under reduced pressure, and the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. The methylene chloride was dried over sodium sulfate and concentrated to a viscous glass. The yield was 10.0 g (92.6%). 1H NMR was very complex due to the apparent restricted rotation about the three amide-type bonds. At least three rotamers can be identified in the spectrum.

reactant | tetra(tert-butyloxycarbonyl)-L-cystine dihydrazide | 16.17 mmol, 10.80 g | C(C)(C)(C)OC(=O)N([C@@H](CSSC[C@@H](C(=O)NN)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)NN)C(=O)OC(C)(C)C | C26H48N6O10S2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 3 g | [Zn] | Zn
product | Di-(tert-Butyloxycarbonyl)-L-Cysteine Hydrazide | C(C)(C)(C)OC(=O)N([C@@H](CS)C(=O)NN)C(=O)OC(C)(C)C | C13H25N3O5S
